* C:\Users\Cameron\Documents\git\senior-design\Simulations\low_battery_indicator.asc
XU1 VHYST N001 5V 0 VOUT level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 5V 0 5
V2 VIN 0 SINE(3 1 10)
R1 N001 VIN 1k
R2 VHYST 5V 10k
R3 0 VHYST 30k
R4 VOUT VHYST 50k
.tran 1
.lib UniversalOpAmp2.lib
.backanno
.end
